US04012413
A mixture of 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione and hydrazine hydrate is allowed to stand for 72 hours at about 25° C. After evaporation of the ethanol, the solid products obtained are recrystallized from methylene chloride-benzene to give 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine of melting point 204°-207° C.

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | hydrazine hydrate | O.NN
product | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
